US08981084B2
3-(5-(Trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid (100 mg, 0.4 mmol) was dissolved in dry DMF (3 mL) and HATU (183 mg, 0.48 mmol) was added followed by 3-benzylpiperidine (75 mg, 0.42 mmol) and NMM (0.13 mL, 1.2 mmol) at 0° C. The reaction mixture was slowly warmed to room temperature and stirred for 8 h. The reaction mixture was then diluted with EtOAc and the organic layer was washed with water, 1.5N HCl solution and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica 60-120 mesh, eluant 10% EtOAc in petroleum ether) to get (3-benzylpiperidin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone (70 mg, yield 44%): 1H NMR (400 MHz, CDCl3) δ 8.15-8.01 (m, 2H), 7.59-7.47 (m, 2H), 7.32-7.21 (m, 2H), 7.06-6.97 (m, 3H), 4.63 (m, 1H), 3.59-3.56 (m, 1H), 2.83-2.51 (m, 4H), 1.93-1.84 (m, 3H), 1.26-1.22 (m, 2H). MS (ESI) m/z: Calculated for C22H20F3N3O2: 415.41. found: 416.2 (M+H)+.

reactant | 3-(5-(Trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | 0.4 mmol, 100 mg | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
reactant | HATU | 0.48 mmol, 183 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-benzylpiperidine | 0.42 mmol, 75 mg | C(C1=CC=CC=C1)C1CNCCC1 | C12H17N
reactant | NMM | 1.2 mmol, 0.13 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-benzylpiperidin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | 70 mg, yield 44% | C(C1=CC=CC=C1)C1CN(CCC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F | C22H20F3N3O2
